US06184225B2
1,2-Dibromoethane (1.6 ml, 18.6 mmol) was added to 7-hydroxy-6-methoxy-4-phenoxyquinazoline (0.5 g, 1.86 mmol), (prepared as described for the starting material in Example 16), and potassium carbonate (1.2 g, 8.7 mmol) in DMF (60 ml) and the mixture was heated at 85° C. for 2 hours, and was then allowed to cool. The insolubles were removed by filtration, and the volatiles were removed from the filtrate by evaporation to give a residue which was purified by column chromatography eluting with methylene chloride/methanol (97/3) to give 7-(2-bromoethoxy)-6-methoxy-4-phenoxyquinazoline (440 mg, 63%).

reactant | 1,2-Dibromoethane | 18.6 mmol, 1.6 ml | BrCCBr | C2H4Br2
reactant | 7-hydroxy-6-methoxy-4-phenoxyquinazoline | 1.86 mmol, 0.5 g | OC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C15H12N2O3
reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 7-(2-bromoethoxy)-6-methoxy-4-phenoxyquinazoline | 440 mg, 63% | BrCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C17H15BrN2O3
